US07678801B2
7b) N-{3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-2-thiophenecarboxamide
To a solution of 4-(5-amino-2-methylphenyl)-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one (411.0 mg, 1.0 mmol) in CH2Cl2 (10 mL) at 0° C. was added Et3N (200.0 mg, 2.0 mmol, 2.0 eq), DMAP (5.0 mg, 0.2 mmol, 0.2 eq) and 2-thiophenecarbonyl chloride (292.0 mg, 2.0 mmol, 2.0 eq). After addition the reaction mixture was stirred for about 14 h at ambient temperature. The mixture was concentrated and mixed with H2O (5.0 mL) and EtOAc (20.0 mL). The organic layer was separated and the aqueous layer was extracted with EtOAc (3×15 mL). The combined organic phases were washed with saturated aq. NaCl solution, dried over Na2SO4, filtered, and concentrated. Purification via a CombiFlash system (hexane:EtOAc; 4:1) then afforded the title compound: LC-MS m/z 521 (M+H)+, 2.57 min (ret time).

reactant | 4-(5-amino-2-methylphenyl)-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 1.0 mmol, 411.0 mg | NC=1C=CC(=C(C1)C=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C | C21H16F2N4OS
reactant | Et3N | 2.0 mmol, 200.0 mg, 2.0 eq | CCN(CC)CC | C6H15N
reactant | 2-thiophenecarbonyl chloride | 2.0 mmol, 292.0 mg, 2.0 eq | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.2 mmol, 5.0 mg, 0.2 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-{3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-2-thiophenecarboxamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C=2SC=CC2)SC)=O | C26H18F2N4O2S2
